US05463063
To a stirred mixture of 2-phthalimido-2-phenylacetic acid (2.50 g, 8.89 mmoL) in tetrahydrofuran (50 mL) is added carbonyldiimidazole (1.50 g, 9.25 mmoL) and a few crystals of 4-dimethylaminopyridine. The reaction is then heated to 50° C. for 45 minutes. After the reaction mixture cools to room temperature, 1 mL of concentrated ammonium hydroxide is added via syringe. The reaction is stirred for 1 hour, then diluted with 50 mL of water and partially concentrated to remove the majority of the tetrahydrofuran. The resulting slurry is filtered and the solid washed with copious amounts of water. The solid is dried in vacuo (60° C., <1 mm) to afford 1.9 g (76%) of 2-phthalimido-2-phenylacetamide, which may be alternatively named as N-phthaloylphenylglycinamide, as an off-white powder: mp 218°-2201/2° C.; 1H NMR (DMSO-d6) δ 9.00-7.75 (m, 4 H, Ar), 7.61 (br s, 1 H, CONH2), 7.55-7.20 (m, 6 H, Ar, CONH2), 5.82 (s, 1 H, CHCO2); 13C NMR (DMSO-d6) δ 168.2, 167.1, 135.6, 134.5, 131.4, 129.4, 127.9, 127.7, 123.1, 56.3. Anal (C16H12N2O3), C, H, N.

reactant | 2-phthalimido-2-phenylacetic acid | 2.50 g | C1(C=2C(C(N1C(C(=O)O)C1=CC=CC=C1)=O)=CC=CC2)=O | C16H11NO4
reactant | carbonyldiimidazole | 1.50 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonium hydroxide | 1 mL | [OH-].[NH4+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | 50 mL | O | H2O
product | 2-phthalimido-2-phenylacetamide | 1.9 g, 76% | C1(C=2C(C(N1C(C(=O)N)C1=CC=CC=C1)=O)=CC=CC2)=O | C16H12N2O3
